US08624034B2
Step F) (2R)-4-{5-fluoro-2-oxo-4-[3-(1,3-thiazol-2-yloxy)phenyl]pyridin-1(2H)-yl}-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide
The title compound (66.8 mg, 68.4%) was prepared as a white solid from (2R)-4-{5-fluoro-2-oxo-4-[3-(1,3-thiazol-2-yloxy)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (115 mg, 0.20 mmol) using a procedure analogous to that described for (2R)-4-{5-fluoro-2-oxo-4-[4-(2H-1,2,3-triazol-2-yl)phenyl]pyridin-1(2H)-yl}-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide, Example 26, Step E. MS (LCMS) m/z 482.2 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.57 (s, 3H) 2.09-2.23 (m, 1H) 3.11 (s, 3H) 3.70-3.87 (m, 1H) 3.97-4.14 (m, 1H) 6.58 (d, J=7.61 Hz, 1H) 7.25-7.35 (m, 2H) 7.45-7.67 (m, 4H) 8.06 (d, J=6.44 Hz, 1H) 9.23 (s, 1H) 11.08 (s, 1H).

reactant | (2R)-4-{5-fluoro-2-oxo-4-[3-(1,3-thiazol-2-yloxy)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.20 mmol, 115 mg | FC=1C(=CC(N(C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O)C1=CC(=CC=C1)OC=1SC=CN1 | C25H28FN3O7S2
reactant | (2R)-4-{5-fluoro-2-oxo-4-[4-(2H-1,2,3-triazol-2-yl)phenyl]pyridin-1(2H)-yl}-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | FC=1C(=CC(N(C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)N1N=CC=N1 | C19H20FN5O5S
product | (2R)-4-{5-fluoro-2-oxo-4-[3-(1,3-thiazol-2-yloxy)phenyl]pyridin-1(2H)-yl}-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | 66.8 mg, 68.4% | FC=1C(=CC(N(C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O)C1=CC(=CC=C1)OC=1SC=CN1 | C20H20FN3O6S2
